Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Unasyn / Cefazolin
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
Admission Labs: 
___ 10:25AM BLOOD WBC-4.9 RBC-5.33* Hgb-13.9 Hct-43.7 
MCV-82 MCH-26.1 MCHC-31.8* RDW-14.7 RDWSD-43.6 Plt ___
___ 10:25AM BLOOD Neuts-50.2 ___ Monos-9.8 Eos-0.6* 
Baso-0.8 Im ___ AbsNeut-2.46 AbsLymp-1.88 AbsMono-0.48 
AbsEos-0.03* AbsBaso-0.04
___ 10:25AM BLOOD UreaN-7 Creat-1.0 Na-141 K-3.7
___ 10:25AM BLOOD ALT-38 AST-26 AlkPhos-88 TotBili-0.8
___ 10:16PM BLOOD cTropnT-<0.01
___ 10:16PM BLOOD Albumin-3.9
___ 10:25AM BLOOD VitB12-802 Ferritn-167*
___ 10:25AM BLOOD TSH-1.1
___ 10:25AM BLOOD HCG-<5
___ 10:25AM BLOOD CRP-6.4*
___ 10:16PM BLOOD IgA-153
___ 10:22PM BLOOD Lactate-1.1

Imaging: 
CT ABD/Pelvis:
No acute process within the abdomen or pelvis.

Discharge Exam: 
VITALS: 98.7 PO113 / 76 R ___  
GENERAL: Alert and in no apparent distress, Elevated BMI
EYES: Anicteric, pupils equally round
ENT: MMM, OP clear
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
RECTAL: No anal fissures, no flucuance, normal. 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs, sensation to light touch grossly intact throughout
PSYCH: pleasant, appropriate affect

Discharge Labs:
___ 08:20AM BLOOD WBC-4.0 RBC-5.19 Hgb-13.6 Hct-41.9 
MCV-81* MCH-26.2 MCHC-32.5 RDW-15.0 RDWSD-43.2 Plt ___
___ 08:20AM BLOOD ___ PTT-29.7 ___
___ 08:20AM BLOOD Glucose-98 UreaN-6 Creat-0.9 Na-141 K-3.7 
Cl-103 HCO3-23 AnGap-15
___ 08:20AM BLOOD Calcium-8.9 Phos-3.0 Mg-1.9
___ 10:16PM BLOOD tTG-IgA-2
___ 10:16PM BLOOD IgA-___ female with PMH aplastic anemia s/p remote BMT, 
recent multiple evaluations for chest pain and diarrhea, 
presenting with abdominal pain, watery diarrhea and 20 pound 
weight loss since ___. 

ACUTE/ACTIVE PROBLEMS:
# Diarrhea 
# Abdominal pain
# PO intolerance 
Unclear etiology at this point. Given the time course as well as 
the improvement in pain with defecation and the change in her 
stools could represent IBS but would be a diagnosis of 
exclusion. Her CT ABD/Pelvis was negative for etiology. She has 
negative stool studies and negative girardia prior to 
presentation. CRP minimally elevated. Given remote BMT could 
have a wider differential. Her electrolytes were normal and she 
was able to take POs. Rectal exam without fissue or fluctuance 
to suggest abscess. Given her history she was referred to GI 
clinic for further evaluation but given her stability she did 
not require expedited inpatient evaluation. She was started on 
bentyl 20mg PO TID and psyllium fiber BID as a trial pending 
outpatient evaluation. 

CHRONIC/STABLE PROBLEMS:
# Chest Pain
Unclear etiology, does not seem related to abdominal pain, not 
currently bothering her, and she has had a negative evaluation 
previously. 

# OSA
Reportedly, not on CPAP

# Mood
Reported possible adjustment disorder, r/o PTSD, in SW followup. 


Transitional Issues:
[] Outpt follow up with GI
[] Trial of bentyl and psyllium

The patient was seen and examined on the day of discharge. 
Medically stable for discharge. Greater than 30 minutes was 
spent in care coordination and counseling on the day of 
discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  DICYCLOMine 20 mg PO TID 
RX *dicyclomine 20 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0 
3.  Psyllium Powder 1 PKT PO BID 
RX *psyllium husk (aspartame) [Natural Psyllium Fiber] 3.4 
gram/5.8 gram 1 packet(s) by mouth twice a day Disp #*30 Packet 
Refills:*0 
4.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms ___, 

It was a pleasure taking care of you while you were in the 
hospital. You were admitted with abdominal pain and difficulty 
with eating and drinking. You were evaluated for a cause and we 
were unable to determine a cause. It is important to follow up 
with your primary care provider and to take your medications as 
directed. 
 
Followup Instructions:
___